US06730668B2
Preparation of 2-(4-fluorophenyl)-6-methoxy-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (50):
2-(4-Fluorophenyl)-6-methoxy-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 49, (1.10 g, 2.95 mmol) is diluted with dichloromethane (60 mL). 3-Chloroperbenzoic acid (662 mg of ˜77% purity, 2.95 mmol) is added all at once to the yellow suspension. After 20 min, additional 3-chloroperbenzoic acid (240 mg, 1.07 mmol) is added. After 10 minutes, the clear, yellow reaction solution is poured in a 10% aqueous solution of sodium bisulfite (60 mL). The layers are separated and the aqueous layer extracted with dichloromethane (2×50 mL). The combined organic layers are washed with a saturated aqueous solution of sodium bicarbonate (2×50 mL), dried over sodium sulfate, filtered and concentrated in vacuo to afford 948 mg of a mixture of the corresponding sulfoxide and sulfone as a yellow solid. Used as is for next step.

reactant | 2-(4-Fluorophenyl)-6-methoxy-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | FC1=CC=C(C=C1)C1=C(N2N(CC(C2)OC)C1=O)C1=NC(=NC=C1)SC | C18H17FN4O2S
reactant | 3-Chloroperbenzoic acid | 2.95 mmol, 662 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-chloroperbenzoic acid | 1.07 mmol, 240 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bisulfite | 60 mL | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 2-(4-fluorophenyl)-6-methoxy-3-(2-methanesulfonyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 948 mg | FC1=CC=C(C=C1)C1=C(N2N(CC(C2)OC)C1=O)C1=NC(=NC=C1)S(=O)(=O)C | C18H17FN4O4S
